US04476307
1-(3-Fluorophenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone
By the procedure of Example A1, but using 13:7 hexane:ethyl acetate and then 3:7 hexane:ethyl acetate as eluant and ether/pentane for crystallization, 1-(3-fluorophenyl)-2(1H,3H)-indolone (0.80 g, 3.5 mmoles) was converted to title product, 0.53 g, m.p. 87°-88.5°.

reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-(3-fluorophenyl)-2(1H,3H)-indolone | 3.5 mmoles, 0.80 g | FC=1C=C(C=CC1)N1C(CC2=CC=CC=C12)=O | C14H10FNO
solvent | ether pentane | CCOCC.CCCCC
product | 1-(3-Fluorophenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone | FC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=CN(C)C)=O | C17H15FN2O
